US05073659
A Grignard reagent was prepared from 3.63 g (0.016 mol) of 3,7-dimethyloctyl bromide, 0.363 g (0.015 mol) of metallic magnesium, 40 ml of tetrahydrofuran and 3 droplets of ethylene dibromide as a reaction initiator. 2.09 g (0.015 mol) of anhydrous zinc chloride was added to the tetrahydrofuran solution of 3,7-dimethyloctylmagnesium bromide, while keeping the solution at 20° C. The obtained mixture was stirred at that temperature for one hour to give a cloudy tetrahydrofuran solution of 3,7-dimethyloctylzinc chloride. 0.3 g (0.0007 mol) of CuI·(C6H5)3P was added to this solution, followed by stirring for 5 minutes. 20 ml of a solution of 1.0 g (0.0024 mol) of 2,5,7,8-tetramethyl-2-(3'-chloro-4'-methylenepentyl)-6-yl benzyl ether having a purity of 98% in tetrahydrofuran was dropped into the obtained mixture at 20° C. over a period of 5 minutes. After the completion of the dropping, the obtained mixture was stirred at that temperature for 2 hours and subjected to TLC and HPLC to confirm the disappearance of the chlorine-containing raw material. The ratio of the γ-adduct to the α-adduct (γ:α) was 98:2 (conversion: 95%).

reactant | 3,7-dimethyloctyl bromide | 0.016 mol, 3.63 g | CC(CCBr)CCCC(C)C | C10H21Br
reactant | magnesium | 0.015 mol, 0.363 g | [Mg] | Mg
reactant | ethylene dibromide | C(CBr)Br | C2H4Br2
reactant | zinc chloride | 0.015 mol, 2.09 g | [Cl-].[Zn+2].[Cl-]
reactant | 3,7-dimethyloctylmagnesium bromide | CC(CC[Mg]Br)CCCC(C)C
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3,7-dimethyloctylzinc chloride | [Cl-].CC(CC[Zn+])CCCC(C)C | InChI=1S/C10H21.ClH.Zn/c1-5-10(4)8-6-7-9(2)3;;/h9-10H,1,5-8H2,2-4H3;1H;/q;;+1/p-1
